US05463063
To a stirred mixture of 3-amino-3-(4-cyanophenyl)propionic acid (3.80 g, 20.0 mmol) and sodium carbonate (2.23 g, 21 mmol) in 100 mL of water is added N-carboethoxyphthalimide (4.52 g, 20.0 mmol). After 2 hour, the reaction slurry is filtered and the pH of the stirred filtrate adjusted to 1-2 with 4 N hydrochloric acid. The resulting gel is extracted with ethyl acetate (3×30 mL). The extract is dried over magnesium sulfate and concentrated in vacuo. The crude product is recrystallized from 10% aqueous acetonitrile and then recrystallized from 20% aqueous methanol. The product is dried in vacuo (60° C., <1 mm) to afford 1.5 g (23%) of 3-phthalimido-3-(4-cyanophenyl)propionic acid as a white powder: mp 134°-137° C.; 1H NMR (dmso-d6, 250 MHz) δ 12.5 (br s, 1H), 7.95-7.56 (m, 8 H),. 5.76 (t, 1 H, J=7.7), 3.57-3.15 (m, 2 H); 13C NMR (dmso-d6) δ 171.5, 167.6, 144.2, 134.8, 132.6, 131.1, 128.1, 123.3, 118.5, 49.7, 35.5.

reactant | 3-amino-3-(4-cyanophenyl)propionic acid | 20.0 mmol, 3.80 g | NC(CC(=O)O)C1=CC=C(C=C1)C#N | C10H10N2O2
reactant | sodium carbonate | 21 mmol, 2.23 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carboethoxyphthalimide | 20.0 mmol, 4.52 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 100 mL | O | H2O
product | 3-phthalimido-3-(4-cyanophenyl)propionic acid | 1.5 g, 23% | C1(C=2C(C(N1C(CC(=O)O)C1=CC=C(C=C1)C#N)=O)=CC=CC2)=O | C18H12N2O4
